US05688795
A mixture of 2-chloro-N,N-dimethylnicotinamide (174.3 g, 0.94 mmol), prepared as in Example 13, 3-[4-(2-methoxyphenyl)piperazin-1-yl]propylamine (224 g, 0.9 mmol), prepared as in Example 7, and potassium carbonate (250.5 g, 1.81 mmol) in 4 L of xylenes was heated at gentle reflux (133° to 136° C.) for 39 hours. The mixture was allowed to cool to 50° C. and then 1 L of water was added. The organic layer was separated, washed with water (2×500 mL) and concentrated under reduced pressure. The residue was dissolved in 6 L of ethyl acetate and the solution was washed with water (3×1 L) and saturated sodium chloride (2×250 mL), dried (MgSO4) and filtered. The filter was rinsed with 1 L of ethyl acetate and the combined filtrate was concentrated to approximately 4.8 L. A solution of 3.8N hydrochloric acid (175 mL, 0.67 mmol) in ethanol was added and the mixture was aged at room temperature for 90 minutes and then filtered. The filtered residue was washed with ethyl acetate (4×500 mL), dried under reduced pressure at 79° C. for 18 hours to give 2-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propylamino}-N,N-dimethylnicotinamide hydrochloride (259.4 g, 0.6 mmol), m.p. 204°-206° C. Anal.: Calcd. for C22H31N5O2.HCl: C, 60.89; H, 7.43; N, 16.14%; Found: C, 61.14; H, 7.46; N, 15.96%.

reactant | 2-chloro-N,N-dimethylnicotinamide | 0.94 mmol, 174.3 g | ClC1=C(C(=O)N(C)C)C=CC=N1 | C8H9ClN2O
reactant | 3-[4-(2-methoxyphenyl)piperazin-1-yl]propylamine | 0.9 mmol, 224 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCN | C14H23N3O
reactant | potassium carbonate | 1.81 mmol, 250.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 0.67 mmol, 3.8N, 175 mL | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | water | 1 L | O | H2O
product | 2-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propylamino}-N,N-dimethylnicotinamide hydrochloride | 0.6 mmol, 259.4 g | Cl.COC1=C(C=CC=C1)N1CCN(CC1)CCCNC1=C(C(=O)N(C)C)C=CC=N1 | InChI=1S/C22H31N5O2.ClH/c1-25(2)22(28)18-8-6-11-23-21(18)24-12-7-13-26-14-16-27(17-15-26)19-9-4-5-10-20(19)29-3;/h4-6,8-11H,7,12-17H2,1-3H3,(H,23,24);1H
